US07553836B2
Step A. Preparation of tert-butyl 2-(4-amino-2-methoxyphenoxy)ethylcarbamate
A suspension of K2CO3 (280 mg, 2 mmol), NaI (700 mg, 5 mmol), the potassium salt of 2-methoxy-4-nitrophenol (1.37 g, 6.6 mmol), and t-butyl 2-chloroethylcarbamate (1.4 g, 8 mmol) in DMF (8 mL) was heated at 90° C. for 6 hr. After dilution with H2O, the mixture was extracted 4× with CH2Cl2. The combined organic layers were washed 2× with aq. K2CO3, then with brine prior to drying over Na2SO4. After removal of the solvent under vacuum, the residue was chromatographed on silica gel using 5% EtOAc/CH2Cl2 to elute 870 mg of nitrophenyl ether. Pd catalyzed reduction in ethanol as described in step C of Example 6 yielded tert-butyl 2-(4-amino-2-methoxyphenoxy)ethylcarbamate (700 mg) as an off white solid which was carried forward without further purification.

reactant | K2CO3 | 2 mmol, 280 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 5 mmol, 700 mg | [Na+].[I-]
reactant | potassium | [K] | K
reactant | 2-methoxy-4-nitrophenol | 6.6 mmol, 1.37 g | COC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO4
reactant | t-butyl 2-chloroethylcarbamate | 8 mmol, 1.4 g | ClCCNC(OC(C)(C)C)=O | C7H14ClNO2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-(4-amino-2-methoxyphenoxy)ethylcarbamate | NC1=CC(=C(OCCNC(OC(C)(C)C)=O)C=C1)OC | C14H22N2O4
